US09260425B2
In a microwave vial was charged with 3-chloro-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (29.4 mg, 0.093 mmol), 2-(2-fluoro-5-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (35.0 mg, 0.139 mmol), potassium acetate (13.6 mg, 0.14 mmol), sodium carbonate (14.7 mg, 0.14 mmol), and bis(diphenylphosphino)ferrocene]dichloropalladium (II), complexed with dichloromethane (1:1) (7.5 mg, 9.2E−3 mmol). Degassed acetonitrile (0.8 mL) and water (0.3 mL) were added. Nitrogen was passed through the mixture for 15 minutes and the vial was capped. The reaction mixture was subjected to microwave irradiation at 125° C. for 25 min. The reaction mixture was filtered through a pad of Celite® and diluted with water and EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was purified using flash chromatography (Si-PPC gradient elution, solvent: 10-100% ethyl acetate in heptanes) to give 3-(2-fluoro-5-methoxyphenyl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine as a foam (37.3 mg, 98.9%). 1H NMR (400 MHz, CDCl3) δ 9.12 (s, 1H), 7.95 (s, 1H), 7.90 (s, 1H), 7.81 (d, J=2.8 Hz, 1H), 7.32 (dd, J=5.5, 3.2 Hz, 1H), 7.15 (t, J=9.4 Hz, 1H), 6.97-6.89 (m, 1H), 5.86 (dd, J=8.7, 2.1 Hz, 1H), 4.07-3.98 (m, 1H), 3.93 (s, 3H), 3.86-3.74 (m, 4H), 2.64-2.47 (m, 1H), 2.16 (d, J=9.7 Hz, 2H), 1.83-1.66 (m, 3H). LC/MS: m/z 408.2 [M+1].

reactant | 3-chloro-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 0.093 mmol, 29.4 mg | ClC1=NN(C2=CN=C(C=C21)C=2C=NN(C2)C)C2OCCCC2 | C15H16ClN5O
reactant | 2-(2-fluoro-5-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.139 mmol, 35.0 mg | FC1=C(C=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C | C13H18BFO3
reactant | potassium acetate | 0.14 mmol, 13.6 mg | C(C)(=O)[O-].[K+]
reactant | sodium carbonate | 0.14 mmol, 14.7 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 9.2E−3 mmol, 7.5 mg | ClCCl | CH2Cl2
catalyst | bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium (II) | Cl[Pd]Cl
solvent | water | 0.3 mL | O | H2O
solvent | acetonitrile | 0.8 mL | C(C)#N | C2H3N
product | 3-(2-fluoro-5-methoxyphenyl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 37.3 mg, 98.9% | FC1=C(C=C(C=C1)OC)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)C)C2OCCCC2 | C22H22FN5O2
